US04568612
A solution of 150 g of a polyester having a molecular weight of 1,000 and obtained from adipic acid and butane-1,4-diol, 31.8 g of diethylene glycol, 4.47 g of trimethylolpropane and 200 g of tetrahydrofuran was added dropwise to a solution containing 108.75 g of toluylene diisocyanate (isomer ratio 8:2) and 114 g of tetrahydrofuran in the course of 2 hours at 60° C. 1 drop of dibutyl-tin dilaurate was added before the beginning of the addition, and a further drop 1 hour after the addition was complete. The solution was stirred at 60° C. until the NCO content was 1.72%, after which it was cooled to 45° C. and 18.78 g of methylethanolamine were added.

reactant | adipic acid | C(CCCCC(=O)O)(=O)O | C6H10O4
reactant | butane-1,4-diol | C(CCCO)O | C4H10O2
reactant | diethylene glycol | 31.8 g | C(COCCO)O | C4H10O3
solvent | tetrahydrofuran | 200 g | O1CCCC1 | C4H8O
product | trimethylolpropane | 4.47 g | C(O)C(CC)(CO)CO | C6H14O3
